US04946837
7β-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2(Z)-carboxymethoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid
To 50 ml of trifluoroacetic acid is added 23 g of 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid with stirring under ice-cooling. After removing the cooling-bath, the mixture is stirred for 1.5 hours. To the residue is added 50 ml of ethyl acetate and the solvent is evaporated off under reduced pressure. Fifty milliliter of ethyl acetate is added to the residue. Trituration and filtration of the resulting precipitate give 17 g of the above-identified compound.

reactant | 7β-[2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 23 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OCC(=O)OC(C)(C)C | C27H34N6O12S2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7β-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2(Z)-carboxymethoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 17 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OCC(=O)O | C18H18N6O10S2
